US04288436
2-Isopropoxyimino-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (15.0 g) was reacted with 2,2,2-trifluoroacetic anhydride according to a similar manner to that of Example 20 (1) to give 2-isopropoxyimino-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid (syn isomer).

reactant | 2-Isopropoxyimino-2-(2-aminothiazol-4-yl)acetic acid | 15.0 g | C(C)(C)ON=C(C(=O)O)C=1N=C(SC1)N | C8H11N3O3S
reactant | 2,2,2-trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-isopropoxyimino-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid | C(C)(C)ON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C10H10F3N3O4S
